Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Iodine; Iodine Containing / Cardizem / Morphine / Vancomycin
 
Attending: ___
 
Chief Complaint:
Hypotension
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
This is a ___ year-old male with a history of diabetes, 
hypertension and hyperlipidemia who presents with 1 day of 
fever, dyspnea and confusion.  The patient reports being in his 
usual state of health until this AM when he began to feel weak. 
He was concerned that he was becoming hypoglycemic and thus 
drank some orange juice and checked his glucose (it was 180).  
He rested and when his wife returned, he was found to be weak, 
lethargic with fever and chills.  Thus she called ___.  On 
arrival EMS noted the patient to be hypoxic to 89% and pale.  Of 
note the patient has been treated with dicloxacillin for the 
last 10 days for a LLE injury that became infected.  He 
developed a rash prior to starting the antibiotics that was 
located on his back, chest and arms.  The patient nor wife can 
recall any change that could cause the rash but do note that the 
patient does frequently have rashes that occur for no clear 
reason.

The patient was brought to the ER.  Initial vitlas were t 101 BP 
132/78 HR 130 RR 28 02 92% 4L.  Per report cyanotic on arrival 
of EMS, 02 sat 89%.  In the ED the patient was given 
levofloxacin and then found to have BP of ___.  IV fluids were 
given and the patient responded with BP.  Additionally, the 
patient was given Vancomycin.  The patient and wife report that 
he immediately broke out in hives and became "red". The patient 
was then given solumedrol, benadryl and pepcid with improvement 
in the rash.  He was placed on a NRB prior to transport   

On arrival to the floor the patient is asymptomatic.  He is more 
alert and currently does not feel shortness of breath.  He feels 
that in the last hour he has felt significantly improved. 
  
ROS: + nausea prior to admission, vomiting in ER with vancomycin 
reaction. + constiption.  Has had upper chest/back erythematous 
rash. Intermittent ___ edema r>L. The patient denies any weight 
change,  abdominal pain, diarrhea,  melena, hematochezia, chest 
pain,  orthopnea, PND,  cough, urinary frequency, urgency, 
dysuria, , gait unsteadiness, focal weakness, vision changes, 
headache. 

 
Past Medical History:
DM-II on lantus (intermittently takes ___
CAD s/p MI ___
HTN
Low back pain
glaucoma
impotence
current smoking
peripheral neuropathy
trivial  MR
___

 
Social History:
___
Family History:
Father-CAD
Mother-DM
 
Physical Exam:
GEN: Well-appearing, well-nourished, no acute distress  
HEENT: EOMI, PERRL, sclera anicteric, no epistaxis or 
rhinorrhea, MMM, OP Clear  
NECK: No JVD, carotid pulses brisk, no bruits, no cervical 
lymphadenopathy, trachea midline  
COR: RRR, no M/G/R, normal S1 S2, radial pulses +2  
PULM: Lungs CTAB, no W/R/R  
ABD: Soft, NT, ND, +BS, no HSM, no masses  
EXT: No C/C/E, no palpable cords  
NEURO: alert, oriented to person, place, and time. CN II  XII 
grossly intact. Moves all 4 extremities. Strength ___ in upper 
and lower extremities. Patellar DTR +1. Plantar reflex 
downgoing. No gait disturbance. No cerebellar dysfunction.  
SKIN: No jaundice, cyanosis, or gross dermatitis. No ecchymoses. 

 
Pertinent Results:
Chemistries: 
___ 05:42PM   GLUCOSE-184* UREA N-30* CREAT-1.6* SODIUM-137 
POTASSIUM-3.8 CHLORIDE-98 TOTAL CO2-24 ANION GAP-19
___ 05:42PM   CALCIUM-9.7 PHOSPHATE-2.0* MAGNESIUM-1.8
___ 05:50PM   LACTATE-3.8*

Hematology: 
___ 05:42PM   WBC-15.9* RBC-4.79 HGB-13.7* HCT-39.0* 
MCV-82# MCH-28.6 MCHC-35.2*# RDW-15.0
___ 05:42PM   NEUTS-87.7* LYMPHS-10.9* MONOS-0.5* EOS-0.6 
BASOS-0.2
___ 05:42PM   ___ PTT-23.9 ___

Cardiac Enzymes: 
___ 05:42PM BLOOD CK-MB-5
___ 05:42PM BLOOD cTropnT-0.05*
___ 05:42PM BLOOD CK(CPK)-252*
___ 12:15AM BLOOD CK-MB-16* MB Indx-4.2 cTropnT-0.09*
___ 12:15AM BLOOD CK(CPK)-378*
___ 02:37PM BLOOD CK-MB-19* MB Indx-2.6 cTropnT-0.15*
___ 06:01AM BLOOD CK(CPK)-500*
___ 09:11PM BLOOD CK-MB-15* MB Indx-2.5 cTropnT-0.16*
___ 09:11PM BLOOD CK(CPK)-603*
___ 04:00AM BLOOD CK-MB-13* MB Indx-2.5 cTropnT-0.17*
___ 04:00AM BLOOD CK(CPK)-514*

Imaging: 
CT Chest w/o contrast ___: 
1. Innumerable centrilobular nodules measuring up to 5 mm 
throughout both 
upper lungs. This is most likely infectious in etiology, and 
could represent 
bronchopneumonia. There is no area of confluent consolidation. 
Needs F/U 
after therapy. 
2. Mild emphysematous changes bilaterally. 
3. Mild atherosclerotic calcification. 
4. Bulky appearance to the left adrenal gland, could represent 
adrenal 
adenoma. Adrenal protocol washout CT recommended. 

Bilateral lower extremity ultrasounds ___: 
No evidence of DVT of either leg.

CXR ___: no acute cardiopulmonary process

EKG: ECG:  Sinus tachycardia at 128, ST depressions in I, II, 
III, aVF, V5,V6.  TWI in V4-V6 all new when compared to previous 
___ (which was also tachycardic)

Microbiology: 
___: blood culture x 2 no growth to date
___: urine culture no growth to date
___: legionella antigen negative

 
Brief Hospital Course:
This is a ___ year old man with DM, HTN, CAD, Hyperlipidemia who 
presented with confusion, lethargy, fever, and chills concerning 
for infectious etiology. He was admitted to the ICU for 
transient hypotension that resolved spontaneously. Blood and 
urine cultures and legionella urine antigen were all negative.  
Chest X-Ray was unremarkable. Chest CT was concerning for 
possible bronchopneumonia although appearance is atypical. It 
did show innumerable centrilobular nodules measuring up to 5 mm 
throughout both upper lungs. This is most likely infectious in 
etiology.  
On presentation he had a new oxygen requirement but this was 
quickly weaned to room air without shortness of breath. He 
became afebrile with stable BP through out his stay. He was 
placed on levofloxacin for five day course for fears of 
community acquired pneumonia by the ICU team ( atypical and 
unlikely presentation. His blood and urine cultures are negative 
to date. His confusion/lethargy resolved prior to arrival to the 
emergency room.  He was noted to have elevated cardiac enzymes. 
He has history of 95% LAD lesion treated with angioplasty in 
___.  EKG on admission with ST depressions but in the setting 
of tachycardia.  EKG changes resolved upon arrival to ICU.  CKs 
have peaked and are tending down.  Troponin currently 0.25. 
There was low suspicion that this represents acute plaque 
rupture given lack of symptoms but could represent demand 
ischemia. He was treated with aspirin, atenolol, simvastatin.
I have explained all of the above to the patient and his wife on 
2 separate occasions (yesterday and today). I advised him to 
remain in hospital to obtain TTE or TEE, chemical myocardial 
stress test, and CT of the abdomen ( adrenal enlargement on the 
CT of the chest). I explained that he probably had a " minor 
heart attack" that needs further testing and cardiology 
consultation. He had unexplained fever, hypotension, confusion, 
pulmonary nodules, and cardiac enzymes leak. He may need TEE to 
R/O cardiac source of infection. In addition, he needs stress 
___. In regards to the abnormal chest CT (multiple pulmonary 
nodules on chest CT).  No recent images for comparison. This 
needs to be repeated after treatment with levofloxacin for 
presumed pneumonia ( can not R/O cardiac emboli, or old fungal 
infection). He is a smoker with risk of lung malignancy. He also 
need CT abdomen for the adrenal enlargement seen on CT chest. He 
needs outpatient cardiac and pulmonary consultations.
Again, I expressed the need for longer hospital stay and further 
testing. He decided to leave with his wife and get all above 
tests in the out patient setting. He understood the risk from 
leaving the hospital prematurely.

 
Medications on Admission:
ASPIRIN - 325 MG TABLET (ENTERIC COATED) - UT DICT
ATENOLOL - 25 mg Tablet - 1 Tablet(s) by mouth once a day bp
DIAZEPAM - 10 mg Tablet - 1 Tablet(s) by mouth at bedtime as 
needed for insomnia
DICLOXACILLIN - 500 mg Capsule - 1 Capsule(s) by mouth four 
times a day
GLYBURIDE - 5 mg Tablet - 3 Tablet(s) by mouth once a day dm
HYDROCHLOROTHIAZIDE - 25 mg Tablet - 1 by mouth once a day bp
INSULIN GLARGINE [LANTUS] - 100 unit/mL Solution - 60 units once 
a day dm
LATANOPROST [XALATAN] - 0.005 % Drops - 1 gtt ___ at bedtime
LIDOCAINE [LIDODERM] - 5 % (700 mg/patch) Adhesive Patch,
Medicated - apply once a day as needed for for 12 hours per day 
for low back pain
LISINOPRIL - 40 mg Tablet - 1 Tablet(s) by mouth once a day bp
METFORMIN - 1,000 mg Tablet - 1 Tablet(s) by mouth twice a day 
dm
ROXICET - ___ Tablet - TAKE 2 BY MOUTH EVERY 4 HOURS AS 
NEEDED FOR FOR LBP
SIMVASTATIN - 20 mg Tablet - 1 Tablet(s) by mouth once a day for 
cholesterol
TRIAMCINOLONE ACETONIDE - 0.1 % Cream - apply twice a day 
affected area

 
Discharge Medications:
1. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. Atenolol 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
3. Diazepam 5 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 
as needed.  
4. Simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
5. Camphor-Menthol 0.5-0.5 % Lotion Sig: One (1) Appl Topical 
QID (4 times a day) as needed.  
6. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS (at 
bedtime).  
7. Insulin Glargine 100 unit/mL Cartridge Sig: One (1) 60 
Subcutaneous at bedtime.  
8. Levofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q24H (every 
24 hours) for 3 days.
Disp:*3 Tablet(s)* Refills:*0*
9. Lisinopril 40 mg Tablet Sig: One (1) Tablet PO once a day.  
10. Hydrochlorothiazide 25 mg Tablet Sig: One (1) Tablet PO once 
a day.  
11. Glyburide 5 mg Tablet Sig: Three (3) Tablet PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Fever.

 
Discharge Condition:
Excellent

 
Discharge Instructions:
you came because of fever, shortness of breath, confusion, and 
almost passing out. your tests suggested infection (we did not 
find the source yet) and stress on the heart "minor heart 
attack". you felt well and decided to leave even though I 
advised you to stay for more tests here in the hospital. You 
need to have chemical stress test, Echocardiogram, CT of the 
abdomen (adrenal protocol), and CT of the chest in 3 months. I 
explained to you the need for these tests. you decided to have 
them done in the out patient setting. Please return to the 
hospital if you develop fever, shortness of breath, chest pain, 
or any concerning symptoms. Do not take metformin for now as you 
may need contrast study ( CT with contrast). Ask your doctor 
when to resume it. follow up the results of the blood cultures 
with your doctor as well.
 
Followup Instructions:
___